US07273878B2
Reaction was carried out under nitrogen atmosphere. To 650 ml of tetrahydrofuran, 80 g (0.38 mol) of dibromodifluoromethane was dissolved, followed by drop-wisely adding 121 g (0.74 mol) of tris(dimethylamino)phosphine at −10° C. After the end of the drop-wise addition, the reaction liquid was stirred at room temperature for 1 hour, followed by further drop-wisely adding 24.9 g (0.17 mol) of methyl 5-oxohexanoate dissolved in 250 ml of tetrahydrofuran, at −20° C. After the end of the drop-wise addition, the reaction liquid was stirred at room temperature overnight. To this mixture, diethyl ether was added, followed by washing with dilute hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentrating under reduced pressure. The residue was purified by silica gel column chromatography (diethyl ether:hexane=1:4) to obtain 27 g (yield: 88%) of methyl 6,6-difluoro-5-methyl-5-hexenoate.

reactant | dibromodifluoromethane | 0.38 mol, 80 g | BrC(F)(F)Br | CBr2F2
reactant | tris(dimethylamino)phosphine | 0.74 mol, 121 g | CN(C)P(N(C)C)N(C)C | C6H18N3P
reactant | methyl 5-oxohexanoate | 0.17 mol, 24.9 g | O=C(CCCC(=O)OC)C | C7H12O3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 650 ml | O1CCCC1 | C4H8O
product | methyl 6,6-difluoro-5-methyl-5-hexenoate | 27 g, yield: 88% | FC(=C(CCCC(=O)OC)C)F | C8H12F2O2
